US05132303
Preparation of 8-[4,4-bis(4-chlorophenyl)-3-butenyl]-3-butyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
10.7 g of 4,4-bis(4-chlorophenyl)-3-butenyl bromide are added to the solution of 4.5 g of 3-butyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane in 45 ml of acetone containing 4.20 g of anhydrous potassium carbonate and 0.5 g of potassium iodide. The heterogeneous reaction mixture is refluxed under nitrogen while stirring for 5 hours. After evaporating the solvent under reduced pressure, water is added to the residue and extracted with benzene. The benzene phase is washed with water until halide-free, filtered through a silica gel bed and evaporated under reduced pressure. The residue is recrystallized from ethanol to give the title product in 79.0% yield, m.p.: 110°-111° C.

reactant | 4,4-bis(4-chlorophenyl)-3-butenyl bromide | 10.7 g | ClC1=CC=C(C=C1)C(=CCCBr)C1=CC=C(C=C1)Cl | C16H13BrCl2
reactant | 3-butyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 4.5 g | C(CCC)N1C(OC2(C1=C)CCNCC2)=O | C12H20N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | acetone | 45 ml, 4.20 g | CC(=O)C | C3H6O
product | 8-[4,4-bis(4-chlorophenyl)-3-butenyl]-3-butyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 79.0% yield | ClC1=CC=C(C=C1)C(=CCCN1CCC2(C(N(C(O2)=O)CCCC)=C)CC1)C1=CC=C(C=C1)Cl | C28H32Cl2N2O2
